US04705846
To a mixture of 3.84 g of α-amino-γ-butyrolactone hydrogenbromide in 40 ml of dichloromethane is added 2.15 ml of benzaldehyde, followed by5.9 ml of triethylamine and excess magnesium sulfate. After stirring at room temperature for 20 hours, the mixture is filtered and the filtrate concentrated. A 200 ml portion of ether is added and the resulting suspension filtered. The filtrate is washed with 50 ml of saturated aqueous sodium chloride. The aqueous phase is extracted with two 100 ml portions of ether. The combined organic phase is dried (magnesium sulfate), filtered, and then concentrated. The residue is evaporatively distilled at 0.05 mmHg (Krugelrohr oven 200°-250° C.) to give 3.5 g of N-benzylidene-α-amino-γ-butyrolactone as an oil which solidifies on storage in a freezer:

reactant | α-amino-γ-butyrolactone hydrogenbromide | 3.84 g | Br.NC1C(=O)OCC1
reactant | benzaldehyde | 2.15 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-benzylidene-α-amino-γ-butyrolactone | 3.5 g | C(C1=CC=CC=C1)=NC1C(=O)OCC1 | C11H11NO2
